* PGA855 functional ngspice model
* --------------------------------
* System-level model derived from TI datasheet SBOSAE0B.
* This is not an official TI model and is not transistor-level.
*
* Modelled:
*   - Eight digital gains selected by A2:A0:
*       000=.125, 001=.25, 010=.5, 011=1,
*       100=2,    101=4,   110=8, 111=16
*   - 10 MHz differential bandwidth at all gains
*   - 35 V/us differential slew rate
*   - Fully differential outputs centered on VOCM
*   - Independent input and output-stage supplies
*   - Typical output swing versus output-stage supply span
*   - Typical 70 uV input-referred offset
*   - Typical input bias current and impedance
*   - Typical quiescent currents
*   - Gain-dependent white voltage-noise density at 1 kHz
*   - 0.3 pA/sqrt(Hz) input current-noise density
*   - Approximate 2 us gain-switch settling
*
* Not modelled:
*   - Detailed 1/f noise and 0.1-Hz to 10-Hz noise waveform
*   - CMRR/PSRR versus frequency
*   - Input overvoltage protection
*   - Short-circuit current limiting and nonlinear distortion
*   - FDA_IN+/- external noise-shaping network behavior
*   - Temperature drift and production distributions
*
* Pin order follows the physical package order with NC pin 8 omitted:
* A2 IN+ IN- A0 A1 VS+ LVDD FDA_IN- OUT+ OUT- FDA_IN+
* VOCM LVSS VS- DGND

.subckt PGA855_FUNC A2 IN+ IN- A0 A1 VS+ LVDD FDA_IN- OUT+ OUT-
+ FDA_IN+ VOCM LVSS VS- DGND

.param VOS=70u CSTATE=1n SR=35e6

* Digital gain decode. Logic threshold is centered between the 0.8-V VIL
* maximum and 1.8-V VIH minimum.
BA0 BIT0 0 V={U(V(A0,DGND)-1.3)}
BA1 BIT1 0 V={U(V(A1,DGND)-1.3)}
BA2 BIT2 0 V={U(V(A2,DGND)-1.3)}
BGAIN_CMD GAIN_CMD 0 V={0.125*(1+V(BIT0))*(1+3*V(BIT1))*(1+15*V(BIT2))}

* Gain changes settle in approximately 2 us.  The 0.3-us time constant
* reaches within about 0.1% of the final gain in roughly 2 us.
RGAIN GAIN_CMD GAIN_STATE 1k
CGAIN GAIN_STATE 0 300p

* Input loading and typical bias current.
RINCM_P IN+ VS- 100G
RINCM_N IN- VS- 100G
CINCM_P IN+ VS- 7p
CINCM_N IN- VS- 7p
RINDIFF IN+ IN- 100G
CINDIFF IN+ IN- 1p
IBP IN+ VS- 0.5n
IBN IN- VS- 0.5n

* Voltage-noise source.  A 1-kOhm resistor produces approximately
* 4.071 nV/sqrt(Hz) at 27 C.  NSCALE converts this to the datasheet's
* gain-dependent output-referred white noise:
* gain:  .125 .25 .5  1   2    4    8    16
* eNI:   168  84  42 21.6 12.6 8.6  8.0  7.8 nV/sqrt(Hz), RTI
RNV N_VNOISE 0 1k
BNSCALE NSCALE 0 V={
+ 5.15844*(1-V(BIT2))*(1-V(BIT1))*(1-V(BIT0))
+ +5.15844*(1-V(BIT2))*(1-V(BIT1))*V(BIT0)
+ +5.15844*(1-V(BIT2))*V(BIT1)*(1-V(BIT0))
+ +5.30582*(1-V(BIT2))*V(BIT1)*V(BIT0)
+ +6.18988*V(BIT2)*(1-V(BIT1))*(1-V(BIT0))
+ +8.44928*V(BIT2)*(1-V(BIT1))*V(BIT0)
+ +15.72095*V(BIT2)*V(BIT1)*(1-V(BIT0))
+ +30.65586*V(BIT2)*V(BIT1)*V(BIT0)}

* Input-current noise sources.  The scale converts the same 1-kOhm
* resistor voltage noise into 0.3 pA/sqrt(Hz) at each input.
RNIP N_INOISE_P 0 1k
RNIN N_INOISE_N 0 1k
BIP_NOISE IN+ VS- I={73.692e-6*V(N_INOISE_P)}
BIN_NOISE IN- VS- I={73.692e-6*V(N_INOISE_N)}

* Offset is input-referred for gains >= 1.  For attenuating gains the
* datasheet specifies VOS as 70 uV/G, giving about 70 uV output offset.
BVTARGET VTARGET 0 V={
+ V(GAIN_STATE)*V(IN+,IN-)
+ +VOS*MAX(V(GAIN_STATE),1)
+ +V(NSCALE)*V(N_VNOISE)}

* 10-MHz one-pole differential response with 35-V/us slew-rate limiting.
BFILTER 0 VDIFF I={
+ MIN(MAX((V(VTARGET)-V(VDIFF))*2*pi*CSTATE*10e6,
+ -SR*CSTATE),SR*CSTATE)}
CVDIFF VDIFF 0 {CSTATE}
RVDLEAK VDIFF 0 1T

* VOCM input: the 500k/500k divider gives output mid-supply if VOCM floats
* and presents 250 kOhm to a driven VOCM source.
RVOCM_H LVDD VOCM 500k
RVOCM_L VOCM LVSS 500k
CVOCM VOCM LVSS 1p

* Typical loaded output margin interpolated from datasheet values:
* 0.2 V at 4.5-V output supply, 0.4 V at 36-V output supply.
BMARGIN MARGIN 0 V={
+ MIN(MAX(0.171429+0.00634921*V(LVDD,LVSS),0.2),0.4)}
BOUTHIGH OUTHIGH 0 V={V(LVDD)-V(MARGIN)}
BOUTLOW OUTLOW 0 V={V(LVSS)+V(MARGIN)}

* Limit the differential output symmetrically around VOCM.
BVDLIM VDLIM 0 V={
+ MIN(MAX(V(VDIFF),
+ MAX(2*(V(OUTLOW)-V(VOCM)),2*(V(VOCM)-V(OUTHIGH)))),
+ MIN(2*(V(OUTHIGH)-V(VOCM)),2*(V(VOCM)-V(OUTLOW))))}

BOP_INT OP_INT 0 V={V(VOCM)+0.5*V(VDLIM)}
BON_INT ON_INT 0 V={V(VOCM)-0.5*V(VDLIM)}
ROP OP_INT OUT+ 0.9
RON ON_INT OUT- 0.9

* Auxiliary pins retained for package compatibility.
RAUXP FDA_IN+ 0 1T
RAUXN FDA_IN- 0 1T

* Typical digital input currents and quiescent supply currents.
IA0 A0 DGND 1.5u
IA1 A1 DGND 1.5u
IA2 A2 DGND 1.5u
IQ_INPUT VS+ VS- 3m
IQ_OUTPUT LVDD LVSS 2.3m

.ends PGA855_FUNC
