INA851 functional model - 850 Ohm Wheatstone bridge, +/-10 Ohm at 10 Hz
.include ../INA851_functional.lib

VSP VSP 0 9
VSN VSN 0 0
VOCM VOCM 0 4.5

* Wheatstone bridge.
VBRIDGE TOP 0 9
RVAR TOP INN R={850+10*sin(2*pi*10*time)}
RLOWN INN 0 850
RTOPP TOP INP 850
RLOWP INP 0 850

RG RGP RGN 6k
XU1 INP INN RGP RGN VSP VSN OUTP OUTN VOCM FDAIP FDAIN G02P G02N VSP VSN INA851_FUNC
RL OUTP OUTN 10k
CL OUTP OUTN 100p

.control
tran 50u 250m
let voutdiff = v(outp)-v(outn)
meas tran out_max max voutdiff from=100m to=250m
meas tran out_min min voutdiff from=100m to=250m
let out_pp=out_max-out_min
print out_max out_min out_pp
quit
.endc
.end

