INA851 functional model - single supply swing, VOCM and clamp test
.include ../INA851_functional.lib

VSP VSP 0 9
VSN VSN 0 0
VOCM VOCM 0 4.5
VINN INN 0 0
VDIFF INP INN 10
RG RGP RGN 1T

* Unclamped: clamp pins tied to supply rails.
XFREE INP INN RGP RGN VSP VSN FREEP FREEN VOCM A1 A2 A3 A4 VSP VSN INA851_FUNC
RLF FREEP FREEN 10k

* Clamped near 6.5 V and 2.5 V.
VCH VCH 0 6.5
VCL VCL 0 2.5
XCLAMP INP INN RGP2 RGN2 VSP VSN CLAMPP CLAMPN VOCM B1 B2 B3 B4 VCH VCL INA851_FUNC
RGC RGP2 RGN2 1T
RLC CLAMPP CLAMPN 10k

.control
op
print v(freep) v(freen) v(freep,freen) v(clampp) v(clampn) v(clampp,clampn)
quit
.endc
.end

