PGA855 functional model - AC bandwidth at G=16
.include ../PGA855_functional.lib

VSP VSP 0 15
VSN 0 VSN 15
VLP VLP 0 15
VLN 0 VLN 15
VDG DGND 0 0
VOC VOCM 0 0
VINN INN 0 0
VDIFF INP INN DC 0 AC 1
VH HIGH 0 3.3

XU HIGH INP INN HIGH HIGH VSP VLP FDAN OUTP OUTN FDAP VOCM VLN VSN DGND PGA855_FUNC
RL OUTP OUTN 10k
CL OUTP OUTN 50p

.control
ac dec 100 10 100Meg
let voutdiff=v(outp)-v(outn)
let gain_db=db(voutdiff)
meas ac gain_dc find gain_db at=10
meas ac f3db when gain_db=gain_dc-3
print gain_dc f3db
quit
.endc
.end

