PGA855 functional model - independent output supply and VOCM
.include ../PGA855_functional.lib

* Input stage is +/-15 V; output stage is 0 to 5 V.
VSP VSP 0 15
VSN 0 VSN 15
VLP VLP 0 5
VLN VLN 0 0
VDG DGND 0 0
VOC VOCM 0 2.5
VINN INN 0 0
VDIFF INP INN 10
VH HIGH 0 3.3
VL LOW 0 0

* A2:A0 = 011 => gain 1.
XU LOW INP INN HIGH HIGH VSP VLP FDAN OUTP OUTN FDAP VOCM VLN VSN DGND PGA855_FUNC
RL OUTP OUTN 10k

.control
op
print v(outp) v(outn) v(outp,outn)
quit
.endc
.end

