PGA855 functional model - slew rate at G=1
.include ../PGA855_functional.lib

VSP VSP 0 15
VSN 0 VSN 15
VLP VLP 0 15
VLN 0 VLN 15
VDG DGND 0 0
VOC VOCM 0 0
VINN INN 0 0
VDIFF INP INN PULSE(-5 5 2u 1n 1n 10u 20u)
VH HIGH 0 3.3
VL LOW 0 0

* A2:A0 = 011 => gain 1.
XU LOW INP INN HIGH HIGH VSP VLP FDAN OUTP OUTN FDAP VOCM VLN VSN DGND PGA855_FUNC
RL OUTP OUTN 10k
CL OUTP OUTN 50p

.control
tran 2n 8u
let voutdiff=v(outp)-v(outn)
meas tran t_rise trig voutdiff val=-4 rise=1 targ voutdiff val=4 rise=1
let slew_8v=8/t_rise
print t_rise slew_8v
quit
.endc
.end

