* HMC1001 functional ngspice model
* --------------------------------
* Unofficial system-level model based on the HMC1001/HMC1002 AMR sensor
* documentation and the supplied noise-characteristics curve.
*
* This version models the sensor as a real Wheatstone bridge whose four
* resistors are slightly unbalanced by offset and magnetic field.
*
* HMC1001_SPICE:
*   Simplified five-pin model matching the custom KiCad symbol:
*   Vb OUT+ OUT- GND FIELD
*   V(FIELD,GND) is the magnetic field in gauss.
*
* HMC1001_CTRL:
*   Simulation-oriented model with a BFIELD control pin.
*   V(BFIELD) is the magnetic field in gauss.
*
* HMC1001_FUNC:
*   Eight-pin package-compatible wrapper.  Magnetic field is set with the
*   FIELD instance parameter.  This is convenient for DC operating points;
*   use HMC1001_CTRL for time-varying magnetic fields.
*
* Parameters:
*   RBRIDGE = 850       nominal value of each bridge resistor in ohms
*   SENS    = 3.2m      sensitivity in V/V/gauss
*   OFFSET  = 0         bridge DC offset in volts differential at VCAL
*   VCAL    = 8         bridge voltage at which OFFSET is specified
*   FIELD   = 0         static magnetic field in gauss (FUNC wrapper only)
*   POL     = 1         response polarity, use -1 after a reset operation
*
* Important:
*   OFFSET=10m means 10 mV differential bridge output at Vbridge=VCAL.
*   With the default VCAL=8 V, the equivalent resistance mismatch is:
*       delta_offset = 10m/8 = 0.00125
*   At Vbridge=9 V, the same physical mismatch produces about 11.25 mV.
*
* Noise model:
*   White floor = Johnson noise of the bridge resistors, approximately
*                 3.75 nV/sqrt(Hz) for the nominal 850-ohm bridge.
*   1/f term    = 30 nV/sqrt(Hz) at 1 Hz
*   Total ASD   = sqrt((3.8 nV)^2 + (30 nV)^2/f)
*
* HMC1001_CTRL pin order:
* SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT- BFIELD
*
* HMC1001_FUNC pin order (physical package):
* SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT-
*
* HMC1001_SPICE pin order:
* Vb OUT+ OUT- GND FIELD

.subckt HMC1001_CORE SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT- BFIELD
+ params: RBRIDGE=850 SENS=3.2m OFFSET=0 VCAL=8 POL=1

* Relative bridge imbalance.  For small delta:
*   V(OUT+,OUT-) ~= V(VBRIDGE+,VBRIDGE-) * delta
* where:
*   delta = OFFSET/VCAL + POL*SENS*BFIELD
*
* This is deliberately implemented by changing the four bridge resistors,
* rather than by forcing the output voltage with dependent voltage sources.
BDELTA DELTA 0 V={OFFSET/VCAL+POL*SENS*V(BFIELD)}

* Physical-ish AMR bridge.
*
* Left divider:
*   OUT+ rises when delta is positive.
* Right divider:
*   OUT- falls when delta is positive.
*
* Branch sums remain approximately 2*RBRIDGE, so total bridge resistance
* remains close to RBRIDGE.
RBP_TOP VBRIDGE+ BP0 {RBRIDGE*(1-V(DELTA))}
RBP_BOT BP0 VBRIDGE- {RBRIDGE*(1+V(DELTA))}
RBN_TOP VBRIDGE+ BN0 {RBRIDGE*(1+V(DELTA))}
RBN_BOT BN0 VBRIDGE- {RBRIDGE*(1-V(DELTA))}

* Explicit bridge noise injection.
*
* The voltage-dependent bridge resistors above are used to model physical
* imbalance and field response.  Some ngspice versions do not include their
* thermal noise in .noise, so we inject the equivalent bridge white floor here
* explicitly, along with the AMR 1/f term.
*
* RWHITE gives approximately sqrt(4*k*T*850) = 3.75 nV/sqrt(Hz) at 27 C.
RWHITE NWHITE 0 850

* Additional AMR 1/f noise.
* AF=0 makes the resistor flicker-noise density independent of bias current.
RFLICKER NFL_OUT 0 HMC1001_FLICKER 1m
EFLICKER_P NF_P BP0 NFL_OUT 0 0.5
EFLICKER_N NF_N BN0 NFL_OUT 0 -0.5
.model HMC1001_FLICKER R R=1 KF=9e-10 AF=0 EF=1

EWHITE_P OUT+ NF_P NWHITE 0 0.5
EWHITE_N OUT- NF_N NWHITE 0 -0.5

* Strap impedances.  Their magnetic action and set/reset pulse dynamics are
* outside this functional bridge model.
RSR SR+ SR- 1.5
ROFFSET OFFSET+ OFFSET- 50
RSTRAP_REF1 SR+ VBRIDGE- 1T
RSTRAP_REF2 SR- VBRIDGE- 1T
RSTRAP_REF3 OFFSET+ VBRIDGE- 1T
RSTRAP_REF4 OFFSET- VBRIDGE- 1T

.ends HMC1001_CORE

.subckt HMC1001_SPICE Vb OUT+ OUT- GND FIELD
+ params: RBRIDGE=850 SENS=3.2m OFFSET=0 VCAL=8 POL=1
XCORE DUMMY_SR+ DUMMY_OFFSET+ DUMMY_SR- GND OUT+ DUMMY_OFFSET- Vb OUT- FIELD
+ HMC1001_CORE params: RBRIDGE={RBRIDGE} SENS={SENS} OFFSET={OFFSET} VCAL={VCAL} POL={POL}
.ends HMC1001_SPICE

.subckt HMC1001_CTRL SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT- BFIELD
+ params: RBRIDGE=850 SENS=3.2m OFFSET=0 VCAL=8 POL=1
XCORE SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT- BFIELD
+ HMC1001_CORE params: RBRIDGE={RBRIDGE} SENS={SENS} OFFSET={OFFSET} VCAL={VCAL} POL={POL}
.ends HMC1001_CTRL

.subckt HMC1001_FUNC SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT-
+ params: RBRIDGE=850 SENS=3.2m OFFSET=0 VCAL=8 FIELD=0 POL=1
BFIELD BFIELD 0 V={FIELD}
XCORE SR+ OFFSET+ SR- VBRIDGE- OUT+ OFFSET- VBRIDGE+ OUT- BFIELD
+ HMC1001_CORE params: RBRIDGE={RBRIDGE} SENS={SENS} OFFSET={OFFSET} VCAL={VCAL} POL={POL}
.ends HMC1001_FUNC
