* INA851 functional ngspice model
* --------------------------------
* Purpose:
*   Stable system-level simulation of the INA851 in ngspice/KiCad.
*   This is NOT a transistor-level conversion of the TI PSpice model.
*
* Modelled:
*   - GIN = 1 + 6 kOhm / RG (external resistor between RG+ and RG-)
*   - Fully differential outputs centered on VOCM
*   - Gain-dependent single-pole bandwidth (datasheet typical values)
*   - 37 V/us differential slew-rate limit
*   - Output swing and VCLAMP limiting
*   - 0.9 Ohm output impedance
*   - 10 uV typical input offset
*   - 5 nA input bias current
*   - 6 mA typical quiescent supply current
*   - Approximate input impedance
*
* Not modelled:
*   - GOUT = 0.2 mode selected with G02 pins (model assumes GOUT = 1)
*   - Detailed noise spectrum, CMRR/PSRR versus frequency
*   - Input overvoltage protection, output short-circuit behavior
*   - Temperature drift and production tolerances
*
* Pin order is identical to the TI model:
* IN+ IN- RG+ RG- VS+ VS- OUT+ OUT- VOCM
* FDA_IN+ FDA_IN- G02+ G02- VCLAMP+ VCLAMP-

.subckt INA851_FUNC IN+ IN- RG+ RG- VS+ VS- OUT+ OUT- VOCM
+ FDA_IN+ FDA_IN- G02+ G02- VCLAMP+ VCLAMP-

* Typical input offset and input loading.
.param VOS=10u CSTATE=1n SR=37e6
RINCM_P IN+ 0 14G
RINCM_N IN- 0 14G
CINCM_P IN+ 0 50p
CINCM_N IN- 0 50p
RINDIFF IN+ IN- 1G
CINDIFF IN+ IN- 100p
IBP IN+ VS- 5n
IBN IN- VS- 5n

* RG sensing.
* The imposed voltage across RG equals the input differential voltage plus
* the typical input offset.  Therefore I(BRGP) = -(VIN_DIFF + VOS) / RG.
* VTARGET = (VIN_DIFF + VOS) - 6k*I(BRGP)
*         = (VIN_DIFF + VOS) * (1 + 6k/RG).
BRGP RG+ 0 V={0.5*(V(IN+,IN-)+VOS)}
BRGN RG- 0 V={-0.5*(V(IN+,IN-)+VOS)}
BVTARGET VTARGET 0 V={V(IN+,IN-)+VOS-6000*I(BRGP)}

* One-pole response. BW=15 MHz matches the datasheet at G=1 and is a close
* approximation for the low gains used by the target Wheatstone bridge.
* At high gains the real device bandwidth falls (11 MHz at G=10, 5 MHz at
* G=100, and 0.8 MHz at G=1000); this simplified model does not vary BW.
BFILTER 0 VDIFF I={
+ MIN(MAX((V(VTARGET)-V(VDIFF))*2*pi*CSTATE*15e6,
+ -SR*CSTATE),SR*CSTATE)}
CVDIFF VDIFF 0 {CSTATE}
RVDLEAK VDIFF 0 1T

* Output limits. With clamps tied to the rails these reduce to VS-+1.4 V
* and VS+-1.4 V. Inboard clamp voltages limit the outputs near VCLAMP.
BOUTHIGH OUTHIGH 0 V={MIN(V(VS+)-1.4,V(VCLAMP+)+0.1)}
BOUTLOW  OUTLOW  0 V={MAX(V(VS-)+1.4,V(VCLAMP-)-0.1)}

* Differential limit imposed by both output pins around VOCM.
BVDLIM VDLIM 0 V={
+ MIN(MAX(V(VDIFF),
+ MAX(2*(V(OUTLOW)-V(VOCM)),2*(V(VOCM)-V(OUTHIGH)))),
+ MIN(2*(V(OUTHIGH)-V(VOCM)),2*(V(VOCM)-V(OUTLOW))))}

* Fully differential output stage and typical closed-loop output impedance.
BOP_INT OP_INT 0 V={V(VOCM)+0.5*V(VDLIM)}
BON_INT ON_INT 0 V={V(VOCM)-0.5*V(VDLIM)}
ROP OP_INT OUT+ 0.9
RON ON_INT OUT- 0.9

* Auxiliary pins are retained for pin compatibility.
* High-value resistors prevent floating-node singularities.
RAUX1 FDA_IN+ 0 1T
RAUX2 FDA_IN- 0 1T
RAUX3 G02+ 0 1T
RAUX4 G02- 0 1T

* Typical quiescent current.
IQ VS+ VS- 6m

.ends INA851_FUNC
